US06747023B1
A saturated solution of hydrochloride in methanol (12 ml) was added to 1-(tert-butoxycarbonyl)-4-[5-(pyridin-4-yl)thiazol-2-yl]piperazine (400 mg) at room temperature. After stirring for 1 hour, the reaction mixture was concentrated under reduced pressure, whereby the residue, that is, 1-[5-(pyridin-4-yl)thiazol-2-yl]piperazine hydrochloride was obtained as a white solid. In a solution of the resulting residue in methylene chloride (15 ml) was dissolved [1-phenylsulfonyl-5-(trimethylsilylethynyl)indol-2-yl]sulfonyl chloride (630 mg), followed by the addition of diisopropylethylamine (746 μl) at 0° C. After stirring for 4 hours, methylene chloride (10 ml) and a saturated aqueous solution (30 ml) of sodium bicarbonate were added to the reaction mixture to separate it into layers. The water layer was extracted with methylene chloride (2×10 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride acetone=6:1), whereby 1-[5-(2-methylpyridin-4-yl)thiazol-2-yl)-4-[[1-phenylsulfonyl-5-(trimethylsilylethynyl)indol-2-yl]sulfonyl]piperazine (214 mg) was obtained as a foam.

reactant | hydrochloride | Cl | ClH
reactant | 1-(tert-butoxycarbonyl)-4-[5-(pyridin-4-yl)thiazol-2-yl]piperazine | 400 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C1=CC=NC=C1 | C17H22N4O2S
solvent | methanol | 12 ml | CO | CH4O
product | 1-[5-(pyridin-4-yl)thiazol-2-yl]piperazine hydrochloride | Cl.N1=CC=C(C=C1)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C12H14N4S.ClH/c1-3-13-4-2-10(1)11-9-15-12(17-11)16-7-5-14-6-8-16;/h1-4,9,14H,5-8H2;1H
